* C:\Users\aimil\Desktop\Potentiostat\esp32-Potentiostat\simulation\Control Loop.asc
* Generated by LTspice 24.1.10 for Windows.
R1 Output Working 100k
C1 Output Working 100p
V1 V_REF 0 1.65
V2 V+ 0 3.3
V3 V- 0 0
V4 V_Target 0 PULSE(1.15 2.15 0 5 5 0 10)
X§U1 V_REF Working V+ V- Output MCP6001 ;§pnba In+)In-)V+)V-)OUT
X§U2 V_Target Ref V+ V- Counter MCP6001 ;§pnba In+)In-)V+)V-)OUT
R5 Ref Counter 1k
R6 Interface Ref 100
R7 Working Interface 100k
C2 Working Interface 1µ
.tran 10
.include MCP6001.lib
.options gmin=1e-13
.options reltol=0.01
.options abstol=1e-9
.options vntol=1e-6
.options method=gear
.options cshunt=1e-15
.backanno
.end
